data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
688,748,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10].[CH:11]#[N+:12][C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:13]([C:14](=[O:15])[NH:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:12]=[CH:11]1,water,298.15,6.243019809933992,-70.68476340892201
3849,4405,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[O:16][CH:17]2[C:18]([CH3:19])=[O:20],water,298.15,11.118421929010228,-44.49676964074731
2163,2399,[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[CH:25]=[NH+:26][C-:27]([C:28]#[N:29])[C:30]#[N:31]>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:27]([C:28]#[N:29])([C:30]#[N:31])[NH:26][CH:25]2[C:23]([O:22][CH3:21])=[O:24],water,298.15,19.73585706133447,-27.82687058013321
33,37,[CH3:10][C:11]([CH3:12])=[O+:13][NH-:14].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:11]([CH3:10])([CH3:12])[O:13][NH:14]3,water,298.15,11.427268394409836,-56.47809609143014
5244,5949,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([C:22]#[N:23])([C:24](=[O:25])[NH:26][CH3:27])[NH:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,31.70781437344059,-1.7337905096189696
513,560,[CH3:14][N-:15][NH+:16]=[N:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][N:15]2[CH3:14],water,298.15,28.448798854463305,2.2571795983267395
1301,1427,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:21]([C:22]#[N:23])([C:24]([CH3:25])=[O:26])[N:20]=[C:19]2[C:17]([CH3:16])=[O:18],water,298.15,15.338868472391413,-49.88727820450876
108,124,[CH3:13][CH-:14][N+:15]#[N:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:14]([CH3:13])[N:15]=[N:16]3,water,298.15,17.975304971626848,-37.280359036563006
3084,3465,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[N:7]#[N+:8][CH-:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[N:8]=[N:7]1,water,298.15,30.703023049398,-12.40392223230974
5015,5703,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,33.36693895444404,-1.2137068618799298
4117,4712,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:13](=[O:14])[O:15][CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:11]=[CH:10]1,water,298.15,21.250880785949587,-28.86611460891305
4826,5508,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,8.526762834567256,-34.33781794272458
